US05817671
5-(N-[3-bromo-2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine
Beginning with 0.37 gm (1.6 mMol) 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine and 0.45 gm (2.0 mMol) 3-bromo-2-thiophenecarbonyl chloride, 0.33 gm (49%) of the title compound were prepared essentially by the procedure described in Example 8.

reactant | 5-amino-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 1.6 mMol, 0.37 gm | NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C13H18N4
reactant | 3-bromo-2-thiophenecarbonyl chloride | 2.0 mMol, 0.45 gm | BrC1=C(SC=C1)C(=O)Cl | C5H2BrClOS
product | 5-(N-[3-bromo-2-thiophenecarbonyl]amino)-3-(1-methylpiperidin-4-yl)pyrrolo[3,2-b]pyridine | 0.33 gm, 49% | BrC1=C(SC=C1)C(=O)NC1=CC=C2C(=N1)C(=CN2)C2CCN(CC2)C | C18H19BrN4OS
